US05516774
10,11-Dihydro-10-(4-aminobenzoyl)-5H-imidazo[2,1-c]-[1,4]benzodiazepine
A mixture of 5 mmol of 10,11-dihydro-10-(4-nitrobenzoyl)-5H-imidazo[2,1-c][1,4]benzodiazepine in 10 ml of ethyl alcohol and 10 ml of ethyl acetate containing 0.2 g of 10% Pd/C is hydrogenated for 5 hours in a Parr hydrogenator at 35 psi of hydrogen. The reaction mixture is filtered through a pad of diatomaceous earth. The filtrate is concentrated in vacuo to a solid which is purified by flash chromatography to give the desired product.

reactant | 10,11-dihydro-10-(4-nitrobenzoyl)-5H-imidazo[2,1-c][1,4]benzodiazepine | 5 mmol | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CN3)C=C1 | C18H14N4O3
reactant | ethyl acetate | 10 ml, 0.2 g | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 10,11-Dihydro-10-(4-aminobenzoyl)-5H-imidazo[2,1-c]-[1,4]benzodiazepine | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CN3)C=C1 | C18H16N4O
